US05580883
To a solution of 1-tert-butyloxycarbonyl-4-(4-nitro-3-methylphenyloxy)piperidine (3.6 g) in ethanol (30 ml) was added conc. hydrochloric acid (0.9 ml). By using 10% palladium/carbon (containing 48% water, 0.3 g) as a catalyst, catalytic reduction was conducted under reduced pressure for 1.5 hours. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure to obtain 1-tert-butyloxycarbonyl-4-(4-amino-3methylphenyloxy)piperidine hydrochloride (1.7 g) as light brown crystals, m.p. 160°-180° C.

reactant | 1-tert-butyloxycarbonyl-4-(4-nitro-3-methylphenyloxy)piperidine | 3.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1)[N+](=O)[O-])C | C17H24N2O5
reactant | hydrochloric acid | 0.9 ml | Cl | ClH
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 0.3 g | [Pd] | Pd
product | 1-tert-butyloxycarbonyl-4-(4-amino-3methylphenyloxy)piperidine hydrochloride | 1.7 g | Cl.C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=CC(=C(C=C1)N)C | InChI=1S/C17H26N2O3.ClH/c1-12-11-14(5-6-15(12)18)21-13-7-9-19(10-8-13)16(20)22-17(2,3)4;/h5-6,11,13H,7-10,18H2,1-4H3;1H
